* C:\Users\Regan\OneDrive\Documents\GitHub\Team7\310\310_Phase3.asc
XReg1 0 N004 Vin LT1085-5
Rin1 Vin N003 33
D1 Vac N003 1N4148
Cin1 Vin 0 47µ Rser=0.001
Cout1 N004 0 10µ Rser=0.001
Vsupply1 Vac 0 SINE(0 17.8 500) AC 17.8 0
XU3 N006 N001 5V_DC 0 N005 TLC081
R1 5V_DC N006 1k
R2 N006 0 1k
R3 2.5V N001 10k
R7 2.5V N005 10
C1 2.5V N001 10pF
C3 0 2.5V 1m
C4 0 N006 0.1mF
XU4 2.5V N002 5V_DC 0 PD_Voltage TLC081
R8 PD_Voltage N002 10k
C5 PD_Voltage N002 10p
C6 0 5V_DC 1n
C7 0 5V_DC 1n
XU5 N016 N007 5V_DC 0 V_IN_RX TLC081
R10 V_IN_RX N007 100k
R11 N007 2.5V 100k
R12 N016 2.5V 100k
C8 N016 PD_Voltage 10p
XU6 N015 2.5V 5V_DC 0 V_Square TLC081
R13 V_Square N015 5k
R14 N015 V_IN_RX 1k
R15 V_Square 5V_DC 5k
D2 V_Square N012 D
C9 N013 N012 20n
R16 N013 N012 1.2k
R17 0 N013 1.2k
R18 N014 N013 1k
R19 N011 N014 100k
R20 N011 5V_DC 5k
C10 V_LP 0 10m
XU7 N014 2.5V 5V_DC 0 N011 TLC081
R21 V_LP N011 10k
XU8 V_LP N008 5V_DC 0 N009 TLC081
XU9 NC_01 N010 5V_DC 0 V_Out TLC081
R22 N009 N008 10k
R23 N010 N009 1k
R24 V_Out N010 1k
C11 N009 N008 10p
C12 0 5V_DC 100µ
C13 0 5V_DC 100µ
I1 N002 0 PULSE(5m 0 0 1p 1p 100u 200u)
V1 5V_DC 0 5
.model D D
.lib C:\Users\Regan\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.include LM324.lib
.tran 0 10m 0
.include TLC081.mod
.lib LT1083.lib
.backanno
.end
