* C:\Users\Regan\OneDrive\Documents\GitHub\Team7\310\310_Phase3.asc
XReg1 0 N005 Vin LT1085-5
Rin1 Vin N004 33
D1 Vac N004 1N4148
Cin1 Vin 0 47µ Rser=0.001
Cout1 N005 0 10µ Rser=0.001
Vsupply1 Vac 0 SINE(0 17.8 500) AC 17.8 0
XU3 N007 N001 5V_DC 0 N006 TLC081
R1 5V_DC N007 1k
R2 N007 0 1k
R3 N002 N001 10k
R7 N002 N006 100
C1 N002 N001 10p
C3 0 N002 10µ
C4 0 N007 10µ
XU4 2.5V N003 5V_DC 0 PD_Voltage TLC081
R8 PD_Voltage N003 47k
C5 PD_Voltage N003 33p
C6 0 5V_DC 10µ
C7 0 5V_DC 10µ
XU5 N017 N008 5V_DC 0 V_IN_RX TLC081
R10 V_IN_RX N008 45k
R11 N008 2.5V 1k
R12 N017 2.5V 15k
C8 N017 PD_Voltage 1n
XU6 N016 2.5V 5V_DC 0 V_Square TLC081
R13 V_Square N016 5k
R14 N016 V_IN_RX 1k
R15 V_Square 5V_DC 5k
D2 V_Square N013 D
C9 N014 N013 22n
R16 N014 N013 1.2k
R17 0 N014 1.2k
R18 N015 N014 1k
R19 N012 N015 100k
R20 N012 5V_DC 5k
C10 V_LP 0 10µ
XU7 N015 2.5V 5V_DC 0 N012 TLC081
R21 V_LP N012 1k
XU8 V_LP N009 5V_DC 0 N010 TLC081
XU9 V_cal N011 5V_DC 0 V_Out TLC081
R22 N010 N009 10k
R23 N011 N010 1k
R24 V_Out N011 2k
C11 N010 N009 10p
C12 0 5V_DC 10µ
C13 0 5V_DC 10µ
I1 N003 0 PULSE(20u 0 0 1p 1p 50u 100u)
R4 5V_DC V_cal 3.3k
R5 V_cal 0 1.7k
C2 V_cal 0 10µ
C14 N003 0 4p
R6 N003 0 1000k
V1 2.5V 0 2.5
V2 5V_DC 0 5
.model D D
.lib C:\Users\Regan\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.include LM324.lib
.tran 0 100m 0
.include TLC081.mod
.lib LT1083.lib
.backanno
.end
